US06573272B1
a) 2-[3-(Amino)benzoyl]-9-methyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]-indole (385820)
To a stirred solution of 9-methyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]-indole mono hydrochloride (0.35 g, 1.59 mmole) in dry DMF (20 mL) at RT was added 3-aminobenzoic acid (0.24 g, 1.75 mmole), 1-hydroxybenzotriazole hydrate (0.24 g, 1.75 mmole) and diisopropylethylamine (0.45 g, 3.50 mmole). After 10 min, EDC (0.33 g, 1.75 mmole) was added and the reaction was allowed to stir for 12 hr. The reaction contents were poured into H2O (100 mL) and extracted with EtOAc (2×100 mL). The combined organic phases were washed sequentially with H2O and brine, then were dried over Na2SO4. Concentration under reduced pressure gave a yellow oil. Purification on silica (CHC13/CH3OH, 95:5) afforded the title compound (0.45 g, 92%) as a white solid: MS (ES) m/e 306 (M+H)+.

reactant | 9-methyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]-indole mono hydrochloride | 1.59 mmole, 0.35 g | Cl.CN1C2=C(C3=CC=CC=C13)CCNC2
reactant | 3-aminobenzoic acid | 1.75 mmole, 0.24 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | 1-hydroxybenzotriazole hydrate | 1.75 mmole, 0.24 g | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 3.50 mmole, 0.45 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC | 1.75 mmole, 0.33 g
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 100 mL | O | H2O
product | 2-[3-(Amino)benzoyl]-9-methyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]-indole | 0.45 g, 92% | NC=1C=C(C(=O)N2CC=3N(C4=CC=CC=C4C3CC2)C)C=CC1 | C19H19N3O
